US08372807B2
To a solution of 1-(naphthalen-1-yl)ethanone (500 mg, 2.9 mmol) in dioxane (5 mL) was added to a solution of bromine (510 mg, 3.19 mmol) in dioxane (10 mL), at room temperature, over a period of 30 minutes. The reaction mixture was then stirred at room temperature for 20 minutes and concentrated. The resulting residue was diluted with ether and washed with saturated sodium bicarbonate, water, dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (70% DCM/30% hexanes) afforded 2-bromo-1-(naphthalen-1-yl)ethanone (673 mg, 93%).

reactant | 1-(naphthalen-1-yl)ethanone | 2.9 mmol, 500 mg | C1(=CC=CC2=CC=CC=C12)C(C)=O | C12H10O
reactant | bromine | 3.19 mmol, 510 mg | BrBr | Br2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-1-(naphthalen-1-yl)ethanone | 673 mg, 93% | BrCC(=O)C1=CC=CC2=CC=CC=C12 | C12H9BrO
